### PR TITLE
Reflect epis and quotient functors

### PR DESCRIPTION
**Pull request by amblafont**
- Faithful functors reflect epimorphisms
- Definition of a quotient functor when the target category is HSET

### CODE REVIEW

File: UniMath/CategoryTheory/EpiFacts.v [hunk 1]
```diff
@@ -183,4 +186,23 @@ Section PointwiseEpi.
     apply idpath.
   Qed.
 
-End PointwiseEpi.
\ No newline at end of file
+End PointwiseEpi.
+
+(** faithul functors reflect epimorphisms *)
+Section FaithFulReflectEpis.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/EpiFacts.v]: You don't really need a section here, since you only have one lemma proved in this section.

File: UniMath/CategoryTheory/SetValuedFunctors.v [hunk 2]
```diff
@@ -122,4 +124,96 @@ Section LiftEpiNatTrans.
...
+  Definition quot_functor_ob (d:D) :hSet.
+  Proof.
+    mkpair.
+    apply (setquot (hequiv d)).
+    abstract (apply isasetsetquot).
+  Defined.
+
+  Definition quot_functor_mor (d d' : D) (f : D ⟦d, d'⟧)
+    : HSET ⟦quot_functor_ob d, quot_functor_ob d' ⟧ :=
+    fun (c:quot_functor_ob d) =>  setquotfun (hequiv d) (hequiv d') (#R f) (congru d d' f) c.
```
Comment (mortberg) [inline UniMath/CategoryTheory/SetValuedFunctors.v]: I think this could be written simply `setquotfun (hequiv d) (hequiv d') (#R f) (congru d d' f)` without an explicit lambda?

File: UniMath/CategoryTheory/SetValuedFunctors.v [hunk 3]
```diff
@@ -122,4 +124,96 @@ Section LiftEpiNatTrans.
...
+    red; intros; apply idpath.
+  Qed.
+
+  Definition pr_quot_functor : (nat_trans R  quot_functor) := (_ ,, is_nat_trans_pr_quot_functor).
+
+  Lemma isEpi_pr_quot_functor : isEpi (C:=functor_precategory _ _ has_homsets_HSET) pr_quot_functor.
+  Proof.
+    apply is_nat_trans_epi_from_pointwise_epis.
+    intro a.
+    intros z f g eqfg.
```
Comment (mortberg) [inline UniMath/CategoryTheory/SetValuedFunctors.v]: Why not just introduce all of these in one go?

File: UniMath/CategoryTheory/SetValuedFunctors.v [hunk 4]
```diff
@@ -122,4 +124,96 @@ Section LiftEpiNatTrans.
...
+
+  (** Definition of the quotient functor *)
+  (* not using setquotinset directly because as isasetsetquot is not opaque it would make
+     computation slow in some cases (see issue #548) *)
+  Definition quot_functor_ob (d:D) :hSet.
+  Proof.
+    mkpair.
+    apply (setquot (hequiv d)).
+    abstract (apply isasetsetquot).
+  Defined.
```
Comment (mortberg) [inline UniMath/CategoryTheory/SetValuedFunctors.v]: Bullets missing after `mkpair`

File: UniMath/CategoryTheory/EpiFacts.v [hunk 5]
```diff
@@ -183,4 +186,18 @@ Section PointwiseEpi.
...
-End PointwiseEpi.
\ No newline at end of file
+End PointwiseEpi.
+
+(** faithul functors reflect epimorphisms *)
+Lemma faithful_reflects_epis {C D:precategory} (U:functor C D) (hU:faithful U)
+      {a b:C} (f:C⟦a,b⟧) : isEpi (#U f) -> isEpi f.
+Proof.
+  intro hf.
+  intros c u v huv.
```
Comment (mortberg) [inline UniMath/CategoryTheory/EpiFacts.v]: Why not just introduce all of these in one go?

**Comment by mortberg** [comment]
LGTM (modulo my nitpicking)

**Comment by amblafont** [comment]
thanks for the feedback

**Comment by DanGrayson** [comment]
Six of the new lines end with white space.  If any of us touch your files, then emacs will automatically eliminate that white space for us, possibly adding some noise to a future pull request.

Are you not using emacs with our local emacs settings?

**Comment by DanGrayson** [comment]
Oops, I take that back, never mind!  It's just the diff that has initial spaces in it.
